US08034809B2
e) 6-benzyloxy-8-((R)-2-chloro-1-hydroxyethyl)-4H-benzo[1,4]-oxazin-3-one
The method is carried out analogously to a process described in the literature (Org. Lett. 2002, 4, 4373-4376). 8 mL of a mixture of formic acid and triethylamine (molar ratio=5:2) are added dropwise at −15° C. to 13.15 g (39.6 mmol) 6-benzyloxy-8-(2-chloro-acetyl)-4H-benzo[1,4]oxazin-3-one and 25.5 mg (0.04 mmol) Cp*RhCl[(S,S)-TsDPEN] (Cp*=pentamethylcyclopentadienyl and TsDPEN=(1S,2S)—N-p-toluenesulfonyl-1,2-diphenylethylenediamine) in 40 mL dimethylformamide. The mixture is stirred for 5 hours at this temperature, then 25 mg catalyst are added and the mixture is stirred overnight at −15° C. The reaction mixture is combined with ice water and filtered. The filter residue is dissolved in dichloromethane, dried with sodium sulfate and freed from the solvent. The residue is chromatographed (dichloromethane/methanol gradient) and the product recrystallized from diethyl ether/diisopropylether. Yield: 10.08 g (76%); Rf value=0.28 (dichloromethane:methanol=50:1 on silica gel).

reactant | formic acid | C(=O)O | CH2O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 6-benzyloxy-8-(2-chloro-acetyl)-4H-benzo[1,4]oxazin-3-one | 39.6 mmol | C(C1=CC=CC=C1)OC=1C=C(C2=C(NC(CO2)=O)C1)C(CCl)=O | C17H14ClNO4
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | 6-benzyloxy-8-((R)-2-chloro-1-hydroxyethyl)-4H-benzo[1,4]-oxazin-3-one | C(C1=CC=CC=C1)OC=1C=C(C2=C(NC(CO2)=O)C1)[C@H](CCl)O | C17H16ClNO4
